US06635771B2
To N-[2-(1-Benzhydryl-6-chloro-1H-indol-2-yl)-ethyl]-C-phenyl-methanesulfonamide (0.033M, 1 equiv.) in DCM at 0° C. were added 4-(2-oxo-ethoxy)-benzoic acid methyl ester (3.3 equiv.), triethylsilane (6 equiv.), and TFA (5 equiv.). The reaction mixture was stirred at rt for 2 d 20 h before aqueous workup. Purification by silica gel chromatography followed by reverse phase HPLC gave 4-{2-[1-Benzhydryl-6-chloro-2-(2-phenylmethanesulfonylamino-ethyl)-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester in 35% yield.

reactant | N-[2-(1-Benzhydryl-6-chloro-1H-indol-2-yl)-ethyl]-C-phenyl-methanesulfonamide | 0.033M, 1 equiv. | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC=C(C=C12)Cl)CCNS(=O)(=O)CC1=CC=CC=C1 | C30H27ClN2O2S
reactant | 4-(2-oxo-ethoxy)-benzoic acid methyl ester | 3.3 equiv. | COC(C1=CC=C(C=C1)OCC=O)=O | C10H10O4
reactant | triethylsilane | 6 equiv. | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 5 equiv. | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-{2-[1-Benzhydryl-6-chloro-2-(2-phenylmethanesulfonylamino-ethyl)-1H-indol-3-yl]-ethoxy}-benzoic acid methyl ester | 35% yield | COC(C1=CC=C(C=C1)OCCC1=C(N(C2=CC(=CC=C12)Cl)C(C1=CC=CC=C1)C1=CC=CC=C1)CCNS(=O)(=O)CC1=CC=CC=C1)=O | C40H37ClN2O5S
